US07265104B2
To a solution of N-isopropyl-N-(6-methoxy-pyridin-3-yl)-2-(5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-acetamide (Preparation 11) (150 mg, 0.311 mmol) and 6-fluoro-1H-indole-3-carbaldehyde (61 mg, 0.373 mmol) in toluene (20 mL) was added piperidine (100 μL). The reaction vessel was equipped with a Dean-Stark trap that contained toluene and 4A molecular sieves and was heated at reflux for 24 hours. The solution was cooled to room temperature and was diluted with water. The aqueous solution was washed with EtOAc (3×) and the combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with a solvent gradient (10% EtOAc in hexanes to 100% EtOAc) to yield 158 mg of 2-[4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. MS 628.3 (M+1), 626.2 (M−1).

reactant | N-isopropyl-N-(6-methoxy-pyridin-3-yl)-2-(5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-acetamide | 0.311 mmol, 150 mg | C(C)(C)N(C(CN1C2=C(N3C(=NN=C3CC1=O)C1=CC=CC=C1)C=CC=C2)=O)C=2C=NC(=CC2)OC | C27H26N6O3
reactant | 6-fluoro-1H-indole-3-carbaldehyde | 0.373 mmol, 61 mg | FC1=CC=C2C(=CNC2=C1)C=O | C9H6FNO
reactant | piperidine | 100 μL | N1CCCCC1 | C5H11N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-[4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 158 mg | FC1=CC=C2C(=CNC2=C1)C=C1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(=O)N(C=2C=NC(=CC2)OC)C(C)C)=O | C36H30FN7O3
